US05817776
(Bromomethyl)triphenylphosphonium bromide 70
A mixture of hydroxymethyl)triphenylphosphonium bromide and phosphorus tribromide in benzene is heated at reflux for 23 h with stirring. After this time the solution is dark orange and an orange solid is present. The mixture is cooled to 25° C. and methanol is added. The solvent was removed at reduced pressure and the residue treated with water to extract the phosphonium salt. The aqueous extracts were saturated with solid potassium bromide and extracted with chloroform. The phosphonium salts are crystallized from hot chloroform by addition of ethyl acetate.

reactant | triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
reactant | methanol | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (Bromomethyl)triphenylphosphonium bromide | [Br-].BrC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H17BrP.BrH/c20-16-21(17-10-4-1-5-11-17,18-12-6-2-7-13-18)19-14-8-3-9-15-19;/h1-15H,16H2;1H/q+1;/p-1
